US09034880B2
Preparation of 2-(1,2,3,4-tetrahydro-8-iodo-2-methylpyrido[4,3-b]indol-5-yl)-1-(piperidin-1-yl)ethanone (Compound 486)
Sodium hydride was washed with hexane for removal of oil and dried under vacuum. Then sodium hydride was taken in THF. To this solution 8-iodo-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (100 mg, 0.32 mmol) in THF was added drop wise at 0° C. Then reaction mixture stirred for 0.5 h. The solution of 2-chloro-1-(piperidin-1-yl)ethanone in THF was added drop wise in reaction mixture. Then reaction mixture stirred at rt for 2 h. Reaction monitored by TLC, after completion of reaction, reaction mixture quench with ice-water. THF was evaporated and aqueous layer was extracted with ethyl acetate. Organic layer was dried over anhydrous sodium sulphate. The crude compound was purified by column chromatography to gives 25 mg of desired compound. Out of that 5 mg was stirred with ethanolic HCl to give HCl salt of 2-(8-iodo-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(piperidin-1-yl)ethanone.

reactant | 8-iodo-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.32 mmol, 100 mg | IC1=CC=2C3=C(NC2C=C1)CCN(C3)C | C12H13IN2
reactant | 2-chloro-1-(piperidin-1-yl)ethanone | ClCC(=O)N1CCCCC1 | C7H12ClNO
solvent | THF | C1CCOC1 | C4H8O
product | 2-(1,2,3,4-tetrahydro-8-iodo-2-methylpyrido[4,3-b]indol-5-yl)-1-(piperidin-1-yl)ethanone | 25 mg | IC1=CC=2C3=C(N(C2C=C1)CC(=O)N1CCCCC1)CCN(C3)C | C19H24IN3O
